US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[4-(2-methylpropyl)phenyl]furan-2-carboxamide
The title compound was prepared as described in Example 51A, substituting 4-isobutylphenylboronic acid for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)furan-2-carboxamide for 4-bromoaniline. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.08 (t, J=6.1 Hz, 1H), 8.49 (dd, J=6.9, 0.8 Hz, 1H), 7.92-7.87 (m, 1H), 7.87-7.79 (m, 2H), 7.52 (d, J=1.2 Hz, 1H), 7.45-7.38 (m, 1H), 7.25 (d, J=8.3 Hz, 2H), 7.21 (d, J=3.6 Hz, 1H), 7.04 (d, J=3.6 Hz, 1H), 6.87 (dd, J=7.0, 1.7 Hz, 1H), 4.51 (d, J=6.0 Hz, 2H), 2.49-2.46 (m, 2H), 1.86 (dp, J=13.4, 6.8 Hz, 1H), 0.87 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 374 (M+H)+.

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)furan-2-carboxamide | BrC1=CC=C(O1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C13H10BrN3O2
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[4-(2-methylpropyl)phenyl]furan-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2OC(=CC2)C2=CC=C(C=C2)CC(C)C | C23H23N3O2
